* source ANALYSESUSINGPSPICE
V_PRINT4         N01158 0 0V
          
.PRINT        AC 
+ IM(V_PRINT4) 
+ IP(V_PRINT4)    
V_V1         IN 0 DC 0Vdc AC 1Vac 
C_C1         OUT N01158  1u  TC=0,0 
R_R1         OUT IN  500 TC=0,0 
           
.PRINT         AC 
+ VM([OUT]) 
+ VP([OUT])    
