* source ANALYSESUSINGPSPICE
X_U1         N00473 N00480 Sw_tOpen PARAMS: tOpen=50 ttran=50 Rclosed=0.1m
+  Ropen=1000G
X_U2         0 N00480 Sw_tClose PARAMS: tClose=50 ttran=1u Rclosed=0.01m
+  Ropen=1000G
R_R1         N00480 N00484  100k TC=0,0 
C_C1         0 N00484  100u IC=0V TC=0,0 
V_V1         N00473 0 5Vdc
